US07189716B2
4-Iodo-2-methoxy-nicotinic acid methyl ester:
To a solution of 4-iodo-2-methoxy-nicotinic acid (1.7 g, 6.1 mmol) in 50 mL of methanol (50 ml) was added trimethylsilyldiazomethane (15 mL of a 2M solution in hexanes, 30 mmol). The mixture was stirred at ambient temperature overnight, then concentrated. The crude product was purified by flash column chromatography on silica (eluent: hexanes-ethyl acetate-triethylamine 100-10-1, then 70-30-1). 1.685 g colorless solid were isolated (94%). 1H NMR (500 MHz, acetone-d6) δ 7.93 (d, J=5.4 Hz, 1H), 7.50 (d, J=5.4 Hz, 1H), 3.92 (s, 3H), 3.90 (s, 3H);

reactant | 4-iodo-2-methoxy-nicotinic acid | 6.1 mmol, 1.7 g | IC1=CC=NC(=C1C(=O)O)OC | C7H6INO3
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 50 mL | CO | CH4O
product | 4-Iodo-2-methoxy-nicotinic acid methyl ester | 1.685 g | COC(C1=C(N=CC=C1I)OC)=O | C8H8INO3
